US06514968B1
A mixture of 9-benzyl-3,3-dichloro-1,2,3,9-tetrahydro-4H-carbazol-4-one (0.225 g, 1.78 mmol), LiCl (0.225 g, 5.34 mmol), Li2CO3 (0.395 g, 5.34 mmol), and DMF (6 mL) is heated at 135° C. for 45 min. After cooling, the mixture is partitioned between ethyl ether and aq. ammonium chloride/brine and brine. The organic layer is dried over magnesium sulfate and concentrated to dryness. Chromatography on silica gel (40 mL) using ethyl acetate/hexane (10/90) gave 0.382 g of 9-benzyl-3-chloro-9H-carbazol-4-ol. 1H NMR (CDCl3) δ5.48, 6.14, 6.88, 7.11, 7.12, 7.24-7.36, 7.43, 8.37.

reactant | 9-benzyl-3,3-dichloro-1,2,3,9-tetrahydro-4H-carbazol-4-one | 1.78 mmol, 0.225 g | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C(C(CCC12)(Cl)Cl)=O | C19H15Cl2NO
reactant | LiCl | 5.34 mmol, 0.225 g | [Li+].[Cl-]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 9-benzyl-3-chloro-9H-carbazol-4-ol | 0.382 g | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C(=C(C=CC12)Cl)O | C19H14ClNO
